US08535655B2
b) (2,2-dimethyl-1,3-dioxolan-4-yl)methyl 1-cyclopropyl-6-fluoro-4-oxo-7-(4-propylpiperazin-1-yl)-1,4-dihydroquinoline-3-carboxylate
1-cyclopropyl-6-fluoro-4-oxo-7-(4-propylpiperazin-1-yl)-1,4-dihydroquinoline-3-carboxylic acid (8.86 g, 23.70 mmol) was dissolved in anhydrous dichloromethane (370 ml) under argon. 2,2-dimethyl-1,3-dioxolane-4-methanol (4.71 g, 35.60 mmol), triethylamine (9.59 g, 94.80 mmol) and HBTU (9.90 g, 26.10 mmol) were added and the reaction mixture was stirred at room temperature for three days (exclusion of light). The reaction mixture was washed with saturated NaHCO3 solution (500 ml), aqueous (pH 5) hydrochloric acid (500 ml) and water (500 ml) successively. The organic layer was dried over Na2SO4 and the solvent was removed under reduced pressure, yielding 10.28 g (89%) of a yellow solid.

reactant | 1-cyclopropyl-6-fluoro-4-oxo-7-(4-propylpiperazin-1-yl)-1,4-dihydroquinoline-3-carboxylic acid | 23.70 mmol, 8.86 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CCC)F)=O)C(=O)O | C20H24FN3O3
reactant | 2,2-dimethyl-1,3-dioxolane-4-methanol | 35.60 mmol, 4.71 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | triethylamine | 94.80 mmol, 9.59 g | C(C)N(CC)CC | C6H15N
reactant | HBTU | 26.10 mmol, 9.90 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 370 ml | ClCCl | CH2Cl2
product | (2,2-dimethyl-1,3-dioxolan-4-yl)methyl 1-cyclopropyl-6-fluoro-4-oxo-7-(4-propylpiperazin-1-yl)-1,4-dihydroquinoline-3-carboxylate | 10.28 g, 89% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)CCC)F)=O)C(=O)OCC1OC(OC1)(C)C | C26H34FN3O5
